US05250669
(1) Synthesis of 9-carbomethoxynonanoyl chloride
Thionyl chloride (360 g) was added dropwise to methyl hydrogen sebacate (432.6 g, 2 moles) at 60° C. with vigorous stirring and stirring was continued for 2 h under reflux. The reaction mixture was evaporated and the residue was distilled under reduced pressure to give the title compound as a colorless oil; yield: 400 g; bp 145°-150° C./4 mmHg. (Lit. bp 166°-168° C./14 mmHg; T. D. Heyes, J. C. Roberts, J. Chem. Soc., 1952, 4935).

reactant | Thionyl chloride | 360 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl hydrogen sebacate | 2 moles, 432.6 g | C(CCCCCCCCC(=O)O)(=O)OC | C11H20O4
product | 9-carbomethoxynonanoyl chloride | C(=O)(OC)CCCCCCCCC(=O)Cl | C11H19ClO3
